US03932629
c. 1-phenyl-5-chloro-3-hydroxy-1,2,4-triazole
32.2 g of 1-phenyl-3-hydroxy-1,2,4-triazole and 40.5 g of triethylamine in 300 ml of dimethyl formamide. While cooling with ice, 21.3 g of chlorine gas are passed in at 20° to 30°C. Subsequently the resulting triethylamine hydrochloride is filtered off and the solvent is distilled off in vacuo. The residue is taken up in 300 ml of water and extracted 4 times with 200 ml of ether. The combined ethereal extracts are dried over sodium sulphate and, after the solvent has been filtered off, concentrated in vacuo. The residue is recrystallised from acetonitrile. Yield: 15.0 g (38.4 % of theory); m.p. 146°-147°C.

reactant | 1-phenyl-3-hydroxy-1,2,4-triazole | 32.2 g | C1(=CC=CC=C1)N1N=C(N=C1)O | C8H7N3O
reactant | triethylamine | 40.5 g | C(C)N(CC)CC | C6H15N
reactant | chlorine | 21.3 g | ClCl | Cl2
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-phenyl-5-chloro-3-hydroxy-1,2,4-triazole | C1(=CC=CC=C1)N1N=C(N=C1Cl)O | C8H6ClN3O
